US04605664
A mixture of ethyl 7-[(6,7-Dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]heptanoate (16 g., 0.035 mole), acetic acid (100 ml.) and 6N hydrochloric acid (50 ml.) is stirred and refluxed for 6 hours. The mixture is poured into water (400 ml.) where upon the product slowly solidifies. The product is removed by filtration, dried and recrystallized from a mixture of tetrahydrofuran, ether and petroleum ether (50, 100 and 200 ml., respectively) to give 7-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]heptanoic acid 12.1 g., m.p. 107°-110° C.

reactant | ethyl 7-[(6,7-Dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]heptanoate | 0.035 mole, 16 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCCCCCC(=O)OCC | C24H32Cl2O4
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
solvent | water | 400 ml | O | H2O
product | 7-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]heptanoic acid | 12.1 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCCCCCC(=O)O | C22H28Cl2O4
